US05331006
Preparation of methyl O,α-dimethyl-N-[(tricyclo[3.3.1.13,7 ]dec-2-yloxy)carbonyl]-DL-tyrosinate
The title compound was prepared from methyl α-methyl-N-[(tricyclo[3.3.1.13,7 ]dec-2-yloxy)carbonyl]-DL-tyrosinate (0.671 g, 0.0017 mmol, prepared usingthe procedure described in Example 47, Step A), potassium carbonate (0.345 g, 0.0025 mmol) and iodomethane (0.368 g, 0.0025 mol) using the procedure described in Example 47, Step B. MS: 402.4 (MH+).

reactant | methyl α-methyl-N-[(tricyclo[3.3.1.13,7 ]dec-2-yloxy)carbonyl]-DL-tyrosinate | CC(NC(=O)OC1C2CC3CC(CC1C3)C2)(CC2=CC=C(C=C2)O)C(=O)OC | C22H29NO5
reactant | potassium carbonate | 0.0025 mmol, 0.345 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.0025 mol, 0.368 g | IC | CH3I
product | methyl O,α-dimethyl-N-[(tricyclo[3.3.1.13,7 ]dec-2-yloxy)carbonyl]-DL-tyrosinate | COC1=CC=C(CC(NC(=O)OC2C3CC4CC(CC2C4)C3)(C(=O)OC)C)C=C1 | C23H31NO5
